US07375101B2
7-Chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 5, (2,4-dimethoxy-5-pyrimidinyl)boronic acid (0.939 g, 5.10 mmol), Pd2(dba)3 (0.064 g, 0.07 mmol), dry KF (0.890 g, 15.3 mmol), 5,7-dichloro-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (1.12 g, 4.61 mmol) and P(t-Bu)3 (0.42 mL of a 10% solution in hexanes, 0.21 mmol) were combined and heated for 20 h. After workup, purification of the crude product by silica gel column chromatography (1:3 hexanes:EtOAc) provided the title compound as a pale orange solid (1.20 g, 75%). 1H-NMR (CDCl3): δ 8.50 (s, 1H), 7.49 (dd, J=2.4 Hz, J=8.8 Hz, 1H), 7.29 (d, J=8.8 Hz, 1H), 7.13 (d, J=2.4 Hz, 1H), 4.84 (d, J=10.8 Hz, 1H), 4.06 (s, 3H), 3.79 (s, 3H), 3.76 (d, J=10.8 Hz, 1H), 3.42 (s, 3H). MS (ESI) (M+H)+=347.

reactant | (2,4-dimethoxy-5-pyrimidinyl)boronic acid | 5.10 mmol, 0.939 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | KF | 15.3 mmol, 0.890 g | [F-].[K+]
reactant | 5,7-dichloro-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 4.61 mmol, 1.12 g | ClC1=NCC(N(C2=C1C=C(C=C2)Cl)C)=O | C10H8Cl2N2O
reactant | P(t-Bu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd2(dba)3 | 0.07 mmol, 0.064 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-Chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 1.20 g, 75% | ClC=1C=CC2=C(C(=NCC(N2C)=O)C=2C(=NC(=NC2)OC)OC)C1 | C16H15ClN4O3
